US05801008
(2) Synthesis of dimethyl 4-amino-3-methylthio-1-phenyl-1H-pyrazolo[3,4-b]pyridine-5,6-dicarboxylate
A dimethylsulfoxide (20 ml) solution of 9.0 g (63 mmol) of dimethyl acetylenedicarboxylate was dropwise added to a mixture comprised of 11.5 g (50 mmol) of 5-amino-3-methylthio-1-phenylpyrazole-4-carbonitrile, 20.8 g (145 mmol) of anhydrous potassium carbonate and 300 ml of dimethylsulfoxide, while stirring and cooling with ice, and then stirred for further 60 hours at room temperature. During the stirring, the reaction liquid was changed from brown to greenish brown. After the reaction, the liquid reaction mixture was poured into 500 ml of water with ice and stirred for 30 minutes at room temperature. The blackish brown solid thus precipitated was taken out, and 20 ml of methanol was added thereto and heated. The white crystals thus formed were taken out by means of filtration under suction and recrystallized from methanol to obtain 4.80 g (12.8 mmol) of the entitled product as colorless, needle-like crystals having a melting point of 120° to 122° C.

reactant | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
reactant | dimethyl acetylenedicarboxylate | 63 mmol, 9.0 g | C(#CC(=O)OC)C(=O)OC | C6H6O4
reactant | 5-amino-3-methylthio-1-phenylpyrazole-4-carbonitrile | 50 mmol, 11.5 g | NC1=C(C(=NN1C1=CC=CC=C1)SC)C#N | C11H10N4S
reactant | potassium carbonate | 145 mmol, 20.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylsulfoxide | 300 ml | CS(=O)C | C2H6OS
solvent | water | 500 ml | O | H2O
product | dimethyl 4-amino-3-methylthio-1-phenyl-1H-pyrazolo[3,4-b]pyridine-5,6-dicarboxylate | 12.8 mmol, 4.80 g | NC1=C2C(=NC(=C1C(=O)OC)C(=O)OC)N(N=C2SC)C2=CC=CC=C2 | C17H16N4O4S
